US07235574B2
1H-[1,2,3]Triazole (10.36 g, 0.15 mol), sodium hydroxide (6 g, 0.15 mol) and potassium iodide (2.49 g, 0.015 mol) were dissolved in 2-methyl-2-butanol (50 ml) and heated to reflux for 1 h. At this temperature 4-bromo-but-1-ene (20.25 g, 0.15 mol) in 2-methyl-2-butanol (20 ml) were added dropwise and the resulting mixture was heated at reflux temperature for 4 h. After removal of the solvent the residue was taken up in ethyl acetate (100 ml), washed with water (3×50 ml), dried over sodium sulfate and concentrated. The crude product was purified by destillation yielding 0.65 g 2-but-3-enyl-2H-[1,2,3]triazole (b.p. 90-100° C. at 10 mbar), 1H-NMR (400 MHz, [D6]-DMSO): δ=2.62 (q, 2H, CH2—CH═CH2), 4.48 (t, 2H, CH2-triazole), 4.97–5.06 (m, 2H, CH2—CH═CH2), 5.75 (m, 1H, CH2—CH═CH2), 7.75 (s, 2H, triazole) and 6.36 g (34%) 1-but-3-enyl-1H-[1,2,3]triazole (b.p. 106–108° C. at 10 mbar) as a colorless liquid.

reactant | 1H-[1,2,3]Triazole | 0.15 mol, 10.36 g | N1N=NC=C1 | C2H3N3
reactant | sodium hydroxide | 0.15 mol, 6 g | [OH-].[Na+]
reactant | potassium iodide | 0.015 mol, 2.49 g | [I-].[K+]
reactant | 4-bromo-but-1-ene | 0.15 mol, 20.25 g | BrCCC=C | C4H7Br
solvent | 2-methyl-2-butanol | 50 ml | CC(C)(CC)O | C5H12O
solvent | 2-methyl-2-butanol | 20 ml | CC(C)(CC)O | C5H12O
product | 2-but-3-enyl-2H-[1,2,3]triazole | 0.65 g | C(CC=C)N1N=CC=N1 | C6H9N3
